US04539419
A mixture of 3 g of [[8-acetyl-7-[2-[2-[2-[2-bromoethoxy]ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester, 1.36 g of 1-(2,4-dihydroxy-3-propylphenyl) ethanone and 1.2 g of anhydrous potassium carbonate in 60 ml of anhydrous acetone and 20 ml of anhydrous dimethylformamide was stirred at reflux for 18 hours. The mixture was filtered and filtrate was concentrated in vacuo to an oil which was purified by high pressure liquid chromatography (35% ethyl acetate-toluene) to yield 3 g (82%) of [[8-acetyl-7-[2-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester as an oil.

reactant | [[8-acetyl-7-[2-[2-[2-[2-bromoethoxy]ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 3 g | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCOCCOCCBr)C(C)=O)=O | C23H29BrO8
reactant | 1-(2,4-dihydroxy-3-propylphenyl) ethanone | 1.36 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | potassium carbonate | 1.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | [[8-acetyl-7-[2-[2-[2-[2-(4-acetyl-3-hydroxy-2-propylphenoxy)ethoxy]ethoxy]ethoxy]ethoxy]-2-naphthalenyl]oxy]acetic acid methyl ester | 3 g, 82% | COC(COC1=CC2=C(C(=CC=C2C=C1)OCCOCCOCCOCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)C(C)=O)=O | C34H42O11
